US04876262
22.1 g of 3-acetylimidazo[1,2-a]pyridine was dissolved in 220 ml of acetic acid. 35.1 ml of a 30% hydrogen bromide/acetic acid solution was added dropwise to the solution at 0° C. Then 28.6 g of bromine was added dropwise thereto at 40° C. The mixture was stirred at 40° C. for 2 h and crystals thus formed were filtered. The crystals were dissolved in 100 ml of water. The solution was made alkaline with an excess of an aqueous sodium hydrogencarbonate solution and then extracted with ethyl acetate. The organic layer was concentrated and the obtained brown solid was purified according to silica gel column chromatography (eluted with ethyl acetate) to obtain 13.5 g (yield: 40%) of 3-bromoacetylimidazo[1,2-a]-pyridine (yield: 40%) in the form of yellow crystals. (ii) A suspension comprising 1.91 g (6.0 mmol) of 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride, 3.0 g of potassium carbonate and 40 ml of dimethylformamide was stirred at 80° C. for 1 h. After cooling to room temperature, 1.99 g of 3-bromoacetylimadazo[1,2-a]pyridine prepared in the above step (i) was added thereto and the mixture was stirred at room temperature for 6 h. The reaction mixture was filtered and the filtrate was concentrated to obtain a solid residue, which was then purified according to silica gel column chromatography (chloroform:methanol=96:4). The purified product was converted into its dihydrochloride with ethanolic hydrogen chloride and recrystallized from methanol/acetone to obtain 1.75 g (yield: 58%) of the intended compound.

reactant | 3-acetylimidazo[1,2-a]pyridine | 22.1 g | C(C)(=O)C1=CN=C2N1C=CC=C2 | C9H8N2O
reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | bromine | 28.6 g | BrBr | Br2
solvent | acetic acid | 220 ml | C(C)(=O)O | C2H4O2
product | 3-bromoacetylimidazo[1,2-a]-pyridine | 13.5 g, yield: 40% | BrCC(=O)C1=CN=C2N1C=CC=C2 | C9H7BrN2O
